Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hematemesis
 
Major Surgical or Invasive Procedure:
Right sided chest tube placement (___)
Subclavian dialysis catheter placement (___)
Right transpleural catheter placement (___) and removal 
(___)

 
History of Present Illness:
___ yo M with PMH GERD, diverticulitis and NASH cirrhosis c/b 
varices (banded) and likely hepatic hydrothorax now s/p TIPS 
___ and on transplant list, presenting with single episode of 
hematemesis of BRB and hypotension c/f UGIB. 

Pt reports going to his hepatology appointment yesterday to 
address ongoing ___ edema for which they did not increase his 
diuretic in the setting of hypotension SBP of ___. After 
returning home, he ate some soup and then felt ill. He vomited 
once without blood, then vomited a second time with BRB of 
unknown quantity but his wife notes it was all over his face. He 
had no further episodes of hematemesis. 

In ED initial VS:
100.9 90 104/50 19 95% RA
 
Past Medical History:
NASH cirrhosis previously decompensated by hepatic  
encephalopathy and with recurrent hepatic hydrothorax, grade I 
varices, portal gastropathy  
Gastroesophageal reflux  
Hearing loss  
Inguinal hernia status post repair  
Eczema  
Diverticulitis s/p sigmoidectomy  
 
Social History:
___
Family History:
He does not report any significant family history.

 
Physical Exam:
Admission Physical Exam:
 VITALS: Temp 99.2, HR 86, BP 80/50 93% RA  
 GENERAL: AxO x3, in NAD  
 HEENT: Scleral icterus, MMM, oropharynx clear  
 NECK: supple, JVP not elevated, no LAD  
 LUNGS: CTA on left with good air movement, decreased BS 
throughout right hemithorax, no adventitious sounds  
 CV: Regular rate and rhythm, normal S1 S2, ___ systolic murmur 
LUSB  
 ABD: soft, non-distended, no fluid wave, bowel sounds present, 
TTP mid abdomen and epigastrium, rebound tenderness in 
epigastrium  
 EXT: Warm, well perfused, 2+ pulses, 2+ pitting edema to high 
thigh. TTP left posterior shoulder  
 NEURO: CN II-XII intact. Strength and sensation grossly intact. 
 
 ACCESS: PIVs  
 LABS:  
 Hgb 11.1 -> 8.6 -> 9.2  
 MICROBIOLOGY:  
 BC and Urine Cx pending  
 IMAGING: see above  
 EKG: NSR, no ischemic changes  

Discharge physical exam:
General:  Alert Latino gentleman, walking independently around 
the floor with a cane.
HEENT:  MMM.  Sclerae mildly icteric.
Lungs:  Decreased breath sounds at R base with crackles, stable 
from prior.
CV: RRR, normal S1/S2.  III/VI systolic murmur best heard at 
LUSB.  No gallops/rubs. 
Abdomen:  Abdomen is soft, non-tender, non-distended, bowel 
sounds present, no rebound tenderness or guarding.
Ext: Warm, well perfused.  Compression stockings off.  2+ 
posterior tibialis pulses, trace pitting edema in the ankles 
bilaterally (R > L).  
Neuro: Moves all four extremities purposefully.  No asterixis. 
Skin: RUE ___ site clean/dry.
 
Pertinent Results:
Admission Labs:
___ 06:30PM   WBC-10.6* RBC-2.63* HGB-10.1* HCT-28.9* 
MCV-110* MCH-38.4* MCHC-34.9 RDW-19.6* RDWSD-79.9*
___ 06:30PM   PLT COUNT-57*
___ 01:30PM   WBC-8.1# RBC-2.56* HGB-9.5* HCT-27.7*# 
MCV-108* MCH-37.1* MCHC-34.3 RDW-18.5* RDWSD-72.8*
___ 01:30PM   PLT COUNT-49*
___ 01:30PM   ___ PTT-144.4* ___
___ 01:30PM   ___
___ 10:45AM URINE  HOURS-RANDOM UREA N-408 CREAT-207 
SODIUM-<20 TOT PROT-54 PROT/CREA-0.3*
___ 10:45AM URINE  OSMOLAL-421
___ 10:45AM URINE  COLOR-Orange APPEAR-Hazy SP ___
___ 10:45AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-TR BILIRUBIN-SM  UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 10:45AM URINE  RBC-4* WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 10:45AM URINE  HYALINE-8*
___ 10:45AM URINE  MUCOUS-RARE
___ 09:25AM   HCT-21.7*
___ 03:20AM   HGB-9.2*
___ 02:11AM   GLUCOSE-102* UREA N-10 CREAT-0.9 SODIUM-132* 
POTASSIUM-3.9 CHLORIDE-99 TOTAL CO2-24 ANION GAP-13
___ 02:11AM   ALT(SGPT)-26 AST(SGOT)-45* LD(LDH)-233 ALK 
PHOS-150* TOT BILI-8.1*
___ 02:11AM   LIPASE-34
___ 02:11AM   ALBUMIN-2.6* CALCIUM-8.1* PHOSPHATE-3.1 
MAGNESIUM-1.3*
___ 02:11AM   HGB-8.6* HCT-24.2*
___ 02:11AM   ___ PTT-59.5* ___
___ 01:35AM URINE  HOURS-RANDOM
___ 01:35AM URINE  UHOLD-HOLD
___ 01:35AM URINE  COLOR-Brown APPEAR-Hazy SP ___
___ 01:35AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-TR BILIRUBIN-MOD UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 01:35AM URINE  RBC-6* WBC-6* BACTERIA-FEW YEAST-NONE 
EPI-0
___ 01:35AM URINE  HYALINE-8*
___ 01:35AM URINE  MUCOUS-RARE
___ 12:48AM   ___ PO2-38* PCO2-43 PH-7.43 TOTAL CO2-29 
BASE XS-3 INTUBATED-NOT INTUBA
___ 11:06PM   ___ PTT-44.9* ___
___ 10:11PM   LACTATE-2.3*
___ 10:00PM   GLUCOSE-79 UREA N-10 CREAT-1.0 SODIUM-135 
POTASSIUM-3.4 CHLORIDE-98 TOTAL CO2-29 ANION GAP-11
___ 10:00PM   estGFR-Using this
___ 10:00PM   ALT(SGPT)-35 AST(SGOT)-59* ALK PHOS-227* TOT 
BILI-8.2* DIR BILI-4.8* INDIR BIL-3.4
___ 10:00PM   LIPASE-69*
___ 10:00PM   cTropnT-<0.01 proBNP-62
___ 10:00PM   ALBUMIN-2.1* CALCIUM-8.8 PHOSPHATE-2.2* 
MAGNESIUM-1.8
___ 10:00PM   WBC-4.0 RBC-2.84* HGB-11.1* HCT-31.1* 
MCV-110* MCH-39.1* MCHC-35.7 RDW-15.3 RDWSD-61.5*
___ 10:00PM   NEUTS-79* BANDS-12* LYMPHS-4* MONOS-4* EOS-0 
BASOS-0 ___ METAS-1* MYELOS-0 AbsNeut-3.64 AbsLymp-0.16* 
AbsMono-0.16* AbsEos-0.00* AbsBaso-0.00*
___ 10:00PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-OCCASIONAL MACROCYT-3+ MICROCYT-NORMAL 
POLYCHROM-NORMAL OVALOCYT-OCCASIONAL
___ 10:00PM   PLT SMR-VERY LOW PLT COUNT-56*

Microbiology:

Blood Culture, Routine (Final ___: NO GROWTH.
URINE CULTURE (Final ___: NO GROWTH.
Pleural fluid GRAM STAIN (Final ___: 4+ (>10 per 1000X 
FIELD): POLYMORPHONUCLEAR LEUKOCYTES. NO MICROORGANISMS SEEN. 
FLUID CULTURE (Final ___: NO GROWTH. 
ANAEROBIC CULTURE (Final ___: NO GROWTH.
Fluid Culture in Bottles (Final ___: NO GROWTH.
MRSA SCREEN (Final ___:  No MRSA isolated.
Pleural fluid GRAM STAIN (Final ___: 4+ (>10 per 1000X 
FIELD): POLYMORPHONUCLEAR LEUKOCYTES. NO MICROORGANISMS SEEN. 
FLUID CULTURE (Final ___: NO GROWTH. 
ANAEROBIC CULTURE (Final ___: NO GROWTH. 
FUNGAL CULTURE (Preliminary): NO FUNGUS ISOLATED. 

Imaging:

___ CXR: IMPRESSION: Interval increase in right pleural 
effusion, now large with apical component, and increased right 
middle and lower lobe consolidation, which is likely 
atelectasis, though concurrent infection is also possible. 
___ US: IMPRESSION: Limited evaluation of the left portal vein 
due to difficulty with patient positioning.  No evidence for 
portal vein thrombosis. Patent TIPS. New splenomegaly, now 
measuring 14.2 cm, previously 12 cm. Large right pleural 
effusion. 
___ CXR: IMPRESSION: Large right pleural effusion with near 
complete opacification of the right hemithorax. New pulmonary 
edema as seen within the left lung.
___ CXR: IMPRESSION: Right lung collapse and probable large 
right pleural effusion, unchanged from chest radiograph ___. Mild left-sided pulmonary edema is improved. 
___ Echo: Compared with the prior study (images reviewed) of 
___, pulmonary artery pressure and tricuspid regurgitation 
are both greatly increased.
___ CXR: IMPRESSION: Significant interval decrease in the size 
of the large right pleural effusion with improved aeration of 
the right lung.  There is a small right pneumothorax. Interval 
increase in pulmonary edema. New left-sided pleural effusion. 
___ CT Chest: Large nonhemorrhagic right pleural effusion, and 
small pleural air collection, present despite new right basal 
pleural drainage catheter could be substantially loculated, and 
is responsible for large scale atelectasis right middle and 
lower lobes.  Moderate left pleural effusion is layering, 
producing basal atelectasis. Possible pulmonary arterial 
hypertension. Severe intramuscular severe perimuscular anasarca 
is new. Abnormal bone texture could be due to metabolic bone 
disease.  Consider also metastases or myeloma.  Healing 
anterolateral fractures left middle ribs do not look pathologic. 

___ CT Abdomen/Pelvis: No acute process in the abdomen or 
pelvis to account for the patient's symptoms. Cirrhosis with 
TIPS stent. Splenomegaly. Please refer to separate chest CT 
report for details of intrathoracic findings.
___ CXR: Heart size is enlarged.  There is slight decrease in 
the loculated right-sided pleural effusion.  The left-sided 
pleural effusion is also improved. There remains mild pulmonary 
edema and atelectasis at the lung bases.
___ CXR: There is a new right-sided PICC line with the distal 
lead tip in the proximal right atrium.  This could be pulled 
back 2 cm to be at the cavoatrial junction.  There are low lung 
volumes.  There is unchanged pulmonary vascular congestion.  
There is a partially loculated right-sided pleural effusion, 
stable.  There are no pneumothoraces.
___ CXR: Right PICC line tip is at the level of low 
SVC/cavoatrial junction. Cardiomediastinal silhouette is 
unchanged including cardiomegaly.  There is interval progression 
of pulmonary edema and multifocal opacities concerning for 
progression of pulmonary edema and infection. Right pleural 
effusion is loculated, moderate, unchanged.
___ CXR: In comparison with the study of ___, there are 
slightly improved lung volumes.  Right PICC line again extends 
to about the level of the cavoatrial junction cardiomediastinal 
silhouette is unchanged, as are the bilateral pulmonary 
opacifications.  Moderate partially loculated right pleural 
effusion.
___ CXR: Right PICC line tip is in the right atrium, should be 
pulled back at least 3 cm.  Cardiomegaly is severe.  Pulmonary 
edema is severe. Multifocal consolidations are progressing.  
Pigtail catheter is in place with still present loculated right 
pleural effusion.  No pneumothorax. 
___ CXR: Cardiac enlargement, pulmonary vascular congestion.  
Pulmonary edema, minimally improved.  Pleural effusions.  
Suggestion of small volume air in the right costophrenic angle 
adjacent to the right pleural catheter.
___ CT Chest: Probable left upper lobe pneumonia, increased 
since ___.  Probably responsible for new mild mediastinal 
and probable hilar adenopathy. No appreciable change in 
multiloculated moderate to large right hydro pneumothoraces, 
despite indwelling basal pleural drainage catheter. No change 
moderate dependent left pleural effusion.  Persistent pleural 
effusion and pleural thickening probably responsible for 
substantial bilateral atelectasis. Interval increase in 
pulmonary artery size suggests concurrent increase in pulmonary 
arterial pressure. Mild anasarca has increase. 

CT CHEST W/O CONTRAST (___):
1. Resolved left pleural effusion and improved loculated right 
hydropneumothorax, including smaller right basilar component and 
resolved air within the anterior loculation. 
2. New right chest tube with tip and side-port looping in the 
basilar 
hydrothorax, however the tip lies along the lateral pleura, and 
not within the greatest amount of fluid which is located 
dependently. 
3. Significant re-expansion of bilateral upper and lower lobes, 
with mild residual compressive atelectasis remaining on the 
right. 
4. Improved reactive mediastinal lymphadenopathy. 

CT CHEST W/O CONTRAST (___):  
1. A central venous catheter tip is located within the inferior 
right atrium, 
essentially at the inferior cavoatrial junction. 
2. A loculated anterior right pleural effusion and associated 
compressive 
atelectasis are decreased. 
3. A dependent right pleural effusion is unchanged, compressive 
atelectasis 
slightly increased. 
4. Severe coronary atherosclerosis. 
5. Moderate aortic valve calcification. 

PERTINENT MICRO DATA:
___ 11:56 am PLEURAL FLUID      PLEURAL FLUID. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

   FUNGAL CULTURE (Final ___:    NO FUNGUS ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 


___ 12:49 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

Discharge Labs:
Test NameValueReference RangeUnitsPerforming Site
___ 05:27
Report Comment:
Source: Line-PICC
COMPLETE BLOOD COUNT
White Blood Cells4.24.0 - 10.0K/uLW
Red Blood Cells2.24*4.6 - 6.1m/uLW
Hemoglobin7.8*13.7 - 17.5g/dLW
Hematocrit22.2*40 - 51%W
MCV99*82 - 98fLW
MCH34.8*26 - 32pgW
MCHC35.132 - 37g/dLW
RDW22.6*10.5 - 15.5%W
RDW-SD83.3*35.1 - 46.3fLW
BASIC COAGULATION ___, PTT, PLT, INR)
Platelet Count61*150 - 400K/uLW

___ 05:27
Report Comment:
Source: Line-PICC
BASIC COAGULATION ___, PTT, PLT, INR)
PT28.6*9.4 - 12.5secW
PTT60.2*25.0 - 36.5secW
___ - 1.1 W

Test NameValueReference RangeUnitsPerforming Site
___ 05:27
Report Comment:
Source: Line-PICC;Icteric Specimen
RENAL & GLUCOSE
Glucose169*70 - 100mg/dLW
 If fasting, 70-100 normal, >125 provisional diabetes
Urea Nitrogen146 - 20mg/dLW
Creatinine0.90.5 - 1.2mg/dLW
Sodium13___ - 145mEq/LW
Potassium4.73.3 - 5.1mEq/LW
Chloride9___ - 108mEq/LW
Bicarbonate2422 - 32mEq/LW
Anion Gap178 - 20mEq/LW
 New calculation and Reference range as of ___
ENZYMES & BILIRUBIN
Alanine Aminotransferase (ALT)210 - 40IU/LW
Asparate Aminotransferase (AST)47*0 - 40IU/LW
Alkaline Phosphatase169*40 - 130IU/LW
Bilirubin, Total7.5*0 - 1.5mg/dLW
CHEMISTRY
Albumin2.7*3.5 - 5.2g/dLW
Calcium, Total9.18.4 - 10.3mg/dLW
Phosphate3.02.7 - 4.5mg/dLW
Magnesium1.71.6 - 2.6mg/dLW
 
Brief Hospital Course:
___ yo M with PMH NASH cirrhosis ___ year status post TIPS, whose 
cirrhosis is c/b banded varices, hepatic encephalopathy, hepatic 
hydrothorax), diverticulitis, GERD, who presented with GI 
bleeding, sepsis and empyema. 

Pt initially required MICU level of care for stability of his 
blood loss as well as newly-developing respiratory failure. His 
respiratory failure was found to be from a right-sided empyema 
requiring chest tube. The patient was started on Ceftrixone for 
antibiotics, eventually transitioned to a prolonged course of 
augmentin (final dose through ___.

The patient had evidence of ___ as well as sepsis while in 
the MICU; the ___ thought to be multifactorial from infection in 
the setting of liver disease. He required two sessions of HD. He 
was given albumin and midodrine, to some response. When his 
respiratory status and oxygenation were stable, he was 
called-out to the floor. 

While on the floor, underwent exchange of chest tube- pleurx 
catheter was placed. Pt was diuresed with iV diuretics. when he 
was more euvolemic, he was transitioned to PO furosemide for his 
diuretic regimen. His oxygen requirement resolved after 
achievement of euvolemia. On ___, Pt underwent a repeat CT 
scan to assess for stability of his effusions. This scan 
demonstrated interval improvement. Given the decreasing amounts 
of daily drainage that Pt had from his tube, as well as 
improvement of the empyema, the Interventional Pulmonary team 
pulled his chest tube. He was discharged with close follow-up 
with his hepatologist and the Interventional Pulmonary team. Abx 
were to be continued for 1 week following CT removal.

DETAILED HOSPITAL COURSE:

#Empyema
# Hypoxic respiratory failure: 
Initially requiring supplementary oxygen on arrival. Imaging 
demonstrated the presence of a right-sided pleural effusion, 
with pleural fluid studies concerning for spontaneous bacterial 
empyema vs. infected hepatic hydrothorax. Pt underwent chest 
tube placement with eventual exchange to PleurX catheter when 
the drainage decreased. His chest tube drainage appeared 
transiently bloody but had a hematocrit of < 10, so no further 
angiographic studies obtained. Initially covered with 
ceftriaxone, then transitioned to amoxicillin-clavulanic acid 
for a prolonged course (___). After downsizing to R TPC, 
Pt's PleurX had progressively decreasing fluid amounts with 
daily drainage. A CT scan on ___ demonstrated improvement of his 
hydrothorax, and per discussion with Interventional Pulmonary 
the tube was removed on ___. 
- After completion of his amox-clav (through ___, Pt should 
start ciprofloxacin 500mg q24h for SBP prophylaxis. 

# Acute-on-chronic anemia: 
Had one episode of hematemesis prior to arrival. No further 
evidence of this during hospitalization. No EGD performed. 
Without significant blood loss from his chest tube placement. 
Transiently downtrended and required a total of 4uPRBC for his 
entire hospital course. Thought to be a combination of 
phlebotomy, malnutrition, and depressed marrow response. His Hb 
stable for numerous days at discharge.

# Acute Oliguric Renal Failure ___ ATN
# Volume overload: 
With creatinine to a peak of 5.1. Thought to be due to a 
combination of prerenal insult -> ATN as well as volume 
overload. Pt briefly required two sessions of hemodialysis due 
to oliguria, but as his urine output improved and his creatinine 
downtrended his dialysis was discontinued. A tunneled subclavian 
dialysis catheter also removed at this time. For volume 
overload, Pt initially required BID IV furosemide diuresis; this 
was transitioned to 40mg PO furosemide and 50mg spironolactone 
daily when more euvolemic. He was without oxygen requirement at 
discharge, and his discharge creatinine was 0.9.
- Prescribed additional daily supplementation with 20mEq K and 
400mg mag oxide BID given ongoing electrolyte losses.

# Hypoxia:
# Fluid overload/Pulmonary Edema: 
In the setting of infected hepatic hydrothorax, as well as 
volume overload as above. Improved to room air after treatment 
of infection, daily drainage through TPC, and IV diuresis. He 
was maintained on PO furosemide and spironolactone at discharge, 
with electrolyte supplementation as above.

#Sepsis/hypotension 
BP low at baseline given ESLD. Initially required midodrine in 
the setting of acute kidney injury; this was decreased to 2.5mg 
TID and then discontinued upon discharge. BP improved with 
control of infection.

# NASH Cirrhosis c/b varices, HE, hepatic hydrothorax s/p TIPS: 
Pt was on transplant list, activated during the acuity of his 
illness. MELD-Na 25 at admission with subsequent peak of 40, now 
improving with above measures.
- Home PO vitamin K
- Home rifaximin and lactulose
- Augmentin as above for active infection

# GERD: 
- Home PPI

# Cough 
- Tessalon pearls 

# T2DM: 
- Given insulin sliding scale while at home. 
- Transitional issue to give dietary counseling and consider 
metformin at home, given blood sugars in the high 100-200 range 
while in-house.

# Left shoulder pain: 
Chronic and worse with use. Resolved today. MSK vs visceral 
though MSK more likely. 
- Given acetaminophen PRN

TRANSITIONAL ISSUES:
#Code: presumed full 
#Communication: HCP: ___, ___ 

[ ] MEDICATION CHANGES:
- Added: KCl 20mEq daily, metoclopramide 5mg PO TIDAC:PRN nausea 
(can be weaned down as tolerated), magnesium oxide 400mg PO BID, 
amoxicillin-clavulanic acid ___ PO q12h (final dose through 
___
- Changed: Spironolactone (25mg daily -> 50mg daily), furosemide 
(40mg and 20mg depending on the day -> 40mg daily)
- Added for a later date (___): Ciprofloxacin 500mg q24h. 
This medicine should be started on ___, after Pt completes 
his course of amox-clav, for SBP prophylaxis. 

[ ] FOLLOW-UP LABS:
- Please draw CBC, chem10, LFT's, and coags on ___. Fax 
results to ___ (___) and Pt's primary 
care physician, ___ (___). 

[ ] FOLLOW-UP RADIOLOGY:
- The Interventional Pulmonology team will call with an 
appointment for a follow-up X-ray in 2 weeks. If you do not hear 
from them within 2 days of leaving the hospital, please call at 
___ to help schedule this X-ray.

[ ] RIGHT SPONTANEOUS BACTERIAL HYDROTHORAX:
- Pt should continue on augmentin through ___.
- After ___, he should resume on his ciprofloxacin SBP PPx (see 
above).

[ ] LIVER TRANSPLANT LIST ACTIVATION:
- Pt should follow up at ___ to determine his 
next steps regarding a liver transplant. 

[ ] HYPERGLYCEMIA:
- Pt with history of T2DM, diet controlled. In house sugars in 
the 100-250 range on a regular diet. 
- Consider dietary education and possible initiation of oral 
antihyperglycemics to manage his diabetes. Please check A1C.

[ ] ACUTE KIDNEY INJURY with VOLUME OVERLOAD:
- Discharge creatinine: 0.9
- Discharge weight: 62.87kg
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lactulose 30 mL PO TID 
2. Ursodiol 300 mg PO BID 
3. Simvastatin 20 mg PO QPM 
4. Furosemide 40 mg PO 3X/WEEK (___) 
5. Furosemide 20 mg PO 4X/WEEK (___) 
6. Spironolactone 25 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. Pantoprazole 40 mg PO Q12H 
9. Rifaximin 550 mg PO BID 
10. Phytonadione 5 mg PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
To complete through ___. 
RX *amoxicillin-pot clavulanate [Augmentin] 500 mg-125 mg 1 
tablet(s) by mouth every twelve (12) hours Disp #*31 Tablet 
Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO Q24H 
Start date ___. 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
3.  Magnesium Oxide 400 mg PO BID 
RX *magnesium oxide 400 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
4.  Metoclopramide 5 mg PO TID:PRN nausea 
RX *metoclopramide HCl 5 mg 1 tablet by mouth TID:PRN Disp #*90 
Tablet Refills:*0 
5.  Potassium Chloride 20 mEq PO DAILY 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
6.  Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
7.  Spironolactone 50 mg PO DAILY 
RX *spironolactone 50 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
8.  Lactulose 30 mL PO TID  
9.  Multivitamins 1 TAB PO DAILY  
10.  Pantoprazole 40 mg PO Q12H  
11.  Phytonadione 5 mg PO DAILY  
12.  Rifaximin 550 mg PO BID  
13.  Simvastatin 20 mg PO QPM  
14.  Ursodiol 300 mg PO BID  
15.Outpatient Lab Work
ICD-10 J86.9:  Empyema
Please collect CBC and CRP on ___.  Please fax results to 
___, attn:  ___.
16.Outpatient Lab Work
ICD-10 J86.9:  Empyema
Please draw CBC, chem10, LFT's, and coags on ___.  Fax 
results to ___ (___) and Pt's primary 
care physician, ___ (___).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Spontaneous bacterial empyema/infected hepatic hydrothorax
Hypoxic respiratory failure
Acute renal failure secondary to acute tubular necrosis
Volume overload with hypoxic respiratory failure, now resolved

SECONDARY DIAGNOSES:
Hypotension
Non-alcoholic steatohepatitis cirrhosis, complicated by varices, 
hepatic encephalopathy, and hepatic hydrothorax s/p TIPS
Gastroesophageal reflux
Type II diabetes mellitus
Left shoulder pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at the ___ 
___.  

You were seen in our hospital because you were having worsening 
leg swelling, nausea, and vomiting blood.  Based on your imaging 
and other blood tests, we found that you had a bad infection 
from some fluid that built up around your lung.  You initially 
went to our Intensive Care Unit, where we gave you fluids and 
medicines to keep your blood pressure up.  You also had a tube 
placed in your right chest to help remove some of that infected 
fluid, which helped with your trouble breathing.  We continued 
to treat the infection with antibiotics and drain of the 
infected fluid.  When the infected fluid stopped accumulating, 
we were able to remove the drain in your chest.

Your kidneys also began to show evidence of damage during this 
time.  We thought this was due to your ongoing infection, as 
well as having a lot of fluid in your legs and lungs.  We gave 
you medicines to help get rid of this water, as well as treating 
your infection.  These helped your kidneys return to normal 
functioning levels.

Because you were so sick, you were put on the liver transplant 
list again.  Please talk to your liver doctor to find out what 
the next steps are in your transplant waiting time.

We did make some changes to your medications. We increased your 
furosemide and your spironolactone. You will also need to take 
an antibiotic called amoxicillin-clavulanic acid. This is for 
treatment of your lung infection. You should take this until 
___. On ___, you will need to start taking 
ciprofloxacin. This antibiotic will help to prevent further 
infections. We have also started you on metoclopramide to help 
with nausea. Only take this medication if you need it. We have 
also started you on magnesium oxide and potassium chloride to 
help with the salts in your blood. 

We wish you the best,
Your ___ Care Team

¿Qué es un ___ pleural? Un ___ pleural es un líquido 
lleno de pus ___ pleural a causa de una infección. ___ 
___ pleural está entre sus pulmones y el interior ___ 
___ torácica. El ___ pleural usualmente es provocado por 
una neumonía. Puede llegar a ser una emergencia médica que 
requiere tratamiento inmediato.

¿Cómo se trata un ___ pleural? 
•Antibióticos usualmente son ___ para ___ una 
infección bacteriana. Este medicamento se administra para ___ 
___ neumonía. Es posible que a usted no ___ 
antibióticos ___ no es a causa de ___ neumonía.

•Un drenaje o tubo torácico podría ser colocado para extraer 
líquido ___ pleural.

•Toracotomía es un procedimiento que se usa para drenar líquido 
alrededor de sus pulmones y eliminar el pus y cualquier 
cicatrización. ___ médico más información sobre este 
procedimiento. 

•Cirugía podría usarse para ayudar a que sus pulmones se 
expandan más fácilmente y por completo.

 
Followup Instructions:
___